US07361763B2
A solution of 2-bromo-1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone as a light yellow solid (80 mg, 0.251 mmol) and thiourea (21 mg, 0.276 mmol) in EtOH (1 mL) was stirred at 80° C. for 1.5 h. The resulting precipitate was filtered, washed with MeOH, and dried in vacuo to give 4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine hydrobromide salt as a beige solid (66 mg, 70% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.11 (s, 1H), 8.00 (d, J=2.5 Hz, 1H), 8.39 (t, J=2.5 Hz, 1H), 8.52 (d, J=2.0 Hz, 1H), 12.4 (s, 1H). MS: m/z 295 (M+H+).

reactant | 2-bromo-1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 0.251 mmol, 80 mg | BrCC(=O)C1=CNC2=NC=C(C=C21)Br | C9H6Br2N2O
reactant | thiourea | 0.276 mmol, 21 mg | NC(=S)N | CH4N2S
solvent | EtOH | 1 mL | CCO | C2H6O
product | 4-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine hydrobromide salt | 66 mg, 70% yield | Br.BrC=1C=C2C(=NC1)NC=C2C=2N=C(SC2)N | InChI=1S/C10H7BrN4S.BrH/c11-5-1-6-7(3-14-9(6)13-2-5)8-4-16-10(12)15-8;/h1-4H,(H2,12,15)(H,13,14);1H
